US07875605B2
3-(4-Methylpiperazin-1-ylmethyl)-1H-indole (also, D151)
(1H-Indol-3-yl)-(4-methylpiperazin-1-yl)methanone (2.44 g, 0.01 moles) in THF was treated with cooled and stirred suspension of Lithium aluminum hydride (g, 0.011 moles in THF slowly over the period of 2 to 5 hours, the reaction mixture was heated to reflux for 2-4 hours, after the completion of reaction, the reaction mixture was poured on to the ice and the compound was extracted in ethyl acetate. The residue obtained was purified by flash chromatography (silica gel, EtOAc/Hexanes, 2/8) to afford the compound, which was identified by IR, NMR and mass spectral analyses as the title compound.

reactant | (1H-Indol-3-yl)-(4-methylpiperazin-1-yl)methanone | 0.01 moles, 2.44 g | N1C=C(C2=CC=CC=C12)C(=O)N1CCN(CC1)C | C14H17N3O
reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4-Methylpiperazin-1-ylmethyl)-1H-indole | CN1CCN(CC1)CC1=CNC2=CC=CC=C12 | C14H19N3
